US07253286B2
4-(6-Chloropyrimidin-4-yloxy)phenylamine
4-Chloro-6-(4-nitrophenoxy)pyrimidine (2.52g, 10.0 mmol), iron powder (2.79 g, 50.0 mmol) and ammonium chloride (5.35g, 100 mmol) were suspended in an ethanol (100 ml)-water (25 ml) mixed solvent and the suspension was heated and stirred at 80° C. for 1 hour. Upon completion of the reaction, the reaction mixture was filtered with celite and washed in an ethanol-ethyl acetate mixed solvent. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=2:3), and the fraction containing the target substance was concentrated to obtain the title compound (1.74 g, 7.85 mmol, 79%) as colorless crystals.

reactant | 4-Chloro-6-(4-nitrophenoxy)pyrimidine | 10.0 mmol, 2.52g | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | ammonium chloride | 100 mmol, 5.35g | [Cl-].[NH4+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | water | 25 ml | O | H2O
catalyst | iron | 50.0 mmol, 2.79 g | [Fe] | Fe
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-Chloropyrimidin-4-yloxy)phenylamine | 7.85 mmol, 1.74 g, 79% | ClC1=CC(=NC=N1)OC1=CC=C(C=C1)N | C10H8ClN3O
